US08648099B2
Preparation of 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-3-pyridinecarboxylic acid N′-methyl-N′-phenyl-hydrazide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1018782-82-5) and 1-methyl-1-phenyl-hydrazine (CAN 618-40-6) as starting materials; MS (EI) 436.3 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H9ClF3NO3
reactant | 1-methyl-1-phenyl-hydrazine | CN(N)C1=CC=CC=C1 | C7H10N2
product | 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-3-pyridinecarboxylic acid N′-methyl-N′-phenyl-hydrazide | CN(NC(=O)C=1C=NC(=C(C1)C1=CC=C(C=C1)Cl)OCC(F)(F)F)C1=CC=CC=C1 | C21H17ClF3N3O2
